US03996374
A mixture of 0.83 g. of formic acid and 1.05 g. of 2-diethylaminoethylamine is treated at room temperature with 0.95 g. of [o-(p-chlorobenzoyl)phenyl]glyoxylic acid ethyl ester and subsequently stirred at 140° C. for 2 hours. After cooling, the obtained solution is made alkaline with 2-N ammonium hydroxide with addition of ice and extracted with ether. The extract, shielded from daylight, is washed with water, dried over sodium sulfate, concentrated and chromatographed on 70 g. of silica gel with ether as the eluant. The homogeneous fractions are combined, concentrated to a volume of 15-20 ml. and treated with ethereal hydrochloric acid. The crystallized hydrochloride is removed by filtration and washed with ether, and there is obtained 3-(p-chlorophenyl)-2-[2-(diethylamino)ethyl]isoindole-1-carboxylic acid ethyl ester hydrochloride; melting point 202°-204° C. (decomposition). Recrystallization from methylene chloride/ether does not increase the melting point.

reactant | 2-diethylaminoethylamine | C(C)N(CCN)CC | C6H16N2
reactant | [o-(p-chlorobenzoyl)phenyl]glyoxylic acid ethyl ester | C(C)OC(C(=O)C1=C(C=CC=C1)C(C1=CC=C(C=C1)Cl)=O)=O | C17H13ClO4
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | formic acid | C(=O)O | CH2O2
product | 3-(p-chlorophenyl)-2-[2-(diethylamino)ethyl]isoindole-1-carboxylic acid ethyl ester hydrochloride | Cl.C(C)OC(=O)C=1N(C(=C2C=CC=CC12)C1=CC=C(C=C1)Cl)CCN(CC)CC | InChI=1S/C23H27ClN2O2.ClH/c1-4-25(5-2)15-16-26-21(17-11-13-18(24)14-12-17)19-9-7-8-10-20(19)22(26)23(27)28-6-3;/h7-14H,4-6,15-16H2,1-3H3;1H
